US07365069B2
N-(3,4,5-Trimethoxyphenyl)-4-(methylthio)benzenecarboximidamide
The title compound was prepared from 4-methylthiobenzonitrile (4.1 g, 27 mmol) and 3,4,5-trimethoxyaniline (5 g, 27 mmol) by following the procedure described in preparation 10 (7.8 g, yield 86.32%). 1H-NMR (CDCl3):δ 2.51 (s, 3H), 3.8 (s, 9H), 4.9 (bs, 2H, D2O exchangeable), 6.23 (s, 2H), 7.24-7.30 (m, 2H), 7.78-7.8 (d, 2H). MS m/z:333.5 (M+).

reactant | 4-methylthiobenzonitrile | 27 mmol, 4.1 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
reactant | 3,4,5-trimethoxyaniline | 27 mmol, 5 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
product | N-(3,4,5-Trimethoxyphenyl)-4-(methylthio)benzenecarboximidamide | COC=1C=C(C=C(C1OC)OC)NC(=N)C1=CC=C(C=C1)SC | C17H20N2O3S
